US07214673B2
8-Fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 2-(4-fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile (9.995 g, 30.73 mmol) in ethanol (170 ml) to 60° C. Add to a solution of tin (II) chloride (29.1 g, 153.67 mmol) in 5.0 N hydrochloric acid (170 ml) and heat to reflux. After 18 hours, cool the reaction to room temperature and place in a freezer for 24 hours. The product precipitates from the solution and is collected by filtration. Obtained 2.253 g of the title compound (6.79 mmol, 22% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 296(M+1).

reactant | 2-(4-fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 30.73 mmol, 9.995 g | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H7F4N3O2
reactant | tin (II) chloride | 153.67 mmol, 29.1 g | [Sn](Cl)Cl
solvent | ethanol | 170 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 170 ml | Cl | ClH
product | 8-Fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 6.79 mmol, 2.253 g, 22% yield | Cl.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C1 | InChI=1S/C14H9F4N3.ClH/c15-8-2-4-11-12(6-8)21-13(19)9-5-7(14(16,17)18)1-3-10(9)20-11;/h1-6,20H,(H2,19,21);1H
